US08106077B2
4-[({6-[5-Isopropyl-3-(2-trifluoromethoxy-phenyl)-3H-[1,2,3]triazol-4-ylmethoxy]-2-methyl-pyridin-3-yl}-methyl-amino)-methyl]-2-methyl-benzoic acid
A solution of 4-[({6-[5-isopropyl-3-(2-trifluoromethoxy-phenyl)-3H-[1,2,3]triazol-4-ylmethoxy]-2-methyl-pyridin-3-yl}-methyl-amino)-methyl]-2-methyl-benzoic acid methyl ester (147 mg, 0.251 mmol) in dioxane (2 mL) is treated with a solution of lithium hydroxide (378 mL, 0.756 mmol, 2.0N in water) and heated to 50° C. After 2 h, the reaction is concentrated and the residue is partitioned between Et2O and water. The aqueous layer is adjusted to pH ˜7 and is extracted with a second portion of Et2O. The combined organic layers are washed with water, dried (MgSO4), filtered, and concentrated to yield the title compound (138 mg, 97%). LC/MS (ES+): 570.0, 100%.

reactant | 4-[({6-[5-isopropyl-3-(2-trifluoromethoxy-phenyl)-3H-[1,2,3]triazol-4-ylmethoxy]-2-methyl-pyridin-3-yl}-methyl-amino)-methyl]-2-methyl-benzoic acid methyl ester | 0.251 mmol, 147 mg | COC(C1=C(C=C(C=C1)CN(C)C=1C(=NC(=CC1)OCC=1N(N=NC1C(C)C)C1=C(C=CC=C1)OC(F)(F)F)C)C)=O | C30H32F3N5O4
reactant | lithium hydroxide | 0.756 mmol, 2.0N, 378 mL | [OH-].[Li+]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 4-[({6-[5-Isopropyl-3-(2-trifluoromethoxy-phenyl)-3H-[1,2,3]triazol-4-ylmethoxy]-2-methyl-pyridin-3-yl}-methyl-amino)-methyl]-2-methyl-benzoic acid | 138 mg, 97% | C(C)(C)C1=C(N(N=N1)C1=C(C=CC=C1)OC(F)(F)F)COC1=CC=C(C(=N1)C)N(C)CC1=CC(=C(C(=O)O)C=C1)C | C29H30F3N5O4
